US04479962
1-(Indazol-4-yloxy)-3-[2-(2-chlorophenylamino)-ethylamino]-propan-2-ol
7.8 g. (175 mmol) 1-[1-(Tetrahydropyran-2-yl)-indazol-4-yloxy]-3-[2-(2-chlorophenylamino)-ethylamino]-propan-2-ol in 250 ml. ethanol are mixed with the ion exchanger "Amberlite" CG 120 II (H+ form) and then stirred for 24 hours at 25° C. The ion exchanger is separated off and thoroughly washed with 2% ammonia in methanol. The combined solutions are evaporated and the residue obtained is recrystallized from ethyl acetate. There are obtained 3.6 g. (57% of theory) of the desired compound; m.p. 129°-130° C.

reactant | 1-[1-(Tetrahydropyran-2-yl)-indazol-4-yloxy]-3-[2-(2-chlorophenylamino)-ethylamino]-propan-2-ol | 175 mmol | O1C(CCCC1)N1N=CC2=C(C=CC=C12)OCC(CNCCNC1=C(C=CC=C1)Cl)O | C23H29ClN4O3
solvent | ethanol | C(C)O | C2H6O
product | 1-(Indazol-4-yloxy)-3-[2-(2-chlorophenylamino)-ethylamino]-propan-2-ol | N1N=CC2=C(C=CC=C12)OCC(CNCCNC1=C(C=CC=C1)Cl)O | C18H21ClN4O2
